US09029409B2
To a cold suspension of methyl 6-bromo-2-methylpyrimidine-4-carboxylate (5.4 g, 23.3 mmol, Preparation #3) in MeOH (100 mL) was added NaBH4 (1.11 g, 29.13 mmol, Spectrochem) in small portions over a period of about 45 min at about −10° C. and stirred at the same temperature for about another 30 min. The reaction was quenched with saturated ammonium chloride solution (150 mL) and the product was extracted with EtOAc (2×200 mL). The combined organic extracts were dried over sodium sulphate and concentrated under reduced pressure to afford (6-bromo-2-methylpyrimidin-4-yl)methanol 4.10 g (87.2%). 1H NMR (400 MHz, DMSO) δ: 7.56 (s, 1H), 5.72 (brs, 1H), 4.51 (d, J=3.6 Hz, 2H), 2.57 (s, 3H); MS m/z: 205(M+H)+.

reactant | methyl 6-bromo-2-methylpyrimidine-4-carboxylate | 23.3 mmol, 5.4 g | BrC1=CC(=NC(=N1)C)C(=O)OC | C7H7BrN2O2
reactant | NaBH4 | 29.13 mmol, 1.11 g | [BH4-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | (6-bromo-2-methylpyrimidin-4-yl)methanol | 4.10 g, 87.2% | BrC1=CC(=NC(=N1)C)CO | C6H7BrN2O
